US06362211B1
a) 3-(2-Acetyl-1-oxoindan-2-yl)propionic Acid Ethyl Ester
2-Acetyl-1-indanone (15 g, cf. Liebigs Ann. Chem. 347 (1906) 112) was added into a mixture of potassium carbonate (8.5 g) and dry N,N-dimethylformamide (45 ml). The mixture was stirred at 50-55° C. for 20 minutes and ethyl 3-bromopropionate (19 g) was then added and the stirring was continued at 50-55° C. for 6 hours. Water (60 ml) was added to the reaction mixture and the pH of the solution was adjusted to 2-3 with hydrochloric acid. The mixture was stirred at 50-55° C. for one hour. The cooled solution was extracted with toluene, washed with water, dried with sodium sulfate, and the solvent removed under reduced pressure. The yield was 23.5 g.

reactant | 2-Acetyl-1-indanone | 15 g | C(C)(=O)C1C(C2=CC=CC=C2C1)=O | C11H10O2
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-bromopropionate | 19 g | BrCCC(=O)OCC | C5H9BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | Water | 60 ml | O | H2O
solvent | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 3-(2-Acetyl-1-oxoindan-2-yl)propionic Acid Ethyl Ester | C(C)OC(CCC1(C(C2=CC=CC=C2C1)=O)C(C)=O)=O | C16H18O4
